### PR TITLE
[Merged by Bors] - feat(RingTheory/PowerSeries): Multipliable (1 + f i) for when the order tends to infinity

### PR DESCRIPTION
**Pull request by wwylele**
As `Summable f` and `Multipliable (1 + f ·)` are often related, this shares the same condition as `summable_of_tendsto_order_atTop_nhds_top`

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by b-mehta** [comment]
Does this overlap with stuff that you were working on, @CBirkbeck?

**Comment by CBirkbeck** [comment]
> Does this overlap with stuff that you were working on, @CBirkbeck?

No I think this is different. We have some results about how summable implies multipliable, but those have already been PRd.

**Comment by AntoineChambert-Loir** [comment]
It seems to me that this is not exactly the desired result.
Rather, I would like to know that under the given condition, the hypothesis of docs#multipliable_one_add_of_summable_prod is satisfied. 
Also, we want the analogous results for `MvPowerSeries`, for weightedOrder and Order.

File: Mathlib/RingTheory/PowerSeries/PiTopology.lean [hunk 1]
```diff
@@ -157,6 +158,31 @@ theorem summable_of_tendsto_order_atTop_nhds_top [LinearOrder ι] [LocallyFinite
...
+/-- A family of `PowerSeries` in the form `1 + f i` is multipliable if order of `f i` tends to
+infinity. -/
+theorem multipliable_one_add_of_tendsto_order_atTop_nhds_top [CommSemiring R]
+    {ι : Type*} [LinearOrder ι] [LocallyFiniteOrderBot ι] {f : ι → R⟦X⟧}
+    (h : Tendsto (fun i ↦ (f i).order) atTop (nhds ⊤)) :
+    Multipliable (1 + f ·) := by
+  rcases isEmpty_or_nonempty ι with hempty | hempty
+  · apply multipliable_empty
+  apply multipliable_one_add_of_summable_prod
+  refine (summable_iff_summable_coeff _).mpr fun n ↦ (summable_of_finite_support ?_)
```
Comment (AntoineChambert-Loir) [inline Mathlib/RingTheory/PowerSeries/PiTopology.lean]: The result proved from that point on should be extracted, I believe, for it is the one that will allow to compute the infinite product.

**Review by AntoineChambert-Loir — COMMENTED** [review]
I have made comments at another point:
- extract the indicated result
- prove the similar results for MvPowerSeries and (weighted)Order

**Comment by b-mehta** [comment]
I agree with Antoine that the indicated result should be extracted, but I think it's worth keeping this particular statement (with the shorter proof) afterwards, for discoverability.

**Comment by AntoineChambert-Loir** [comment]
I have no definite opinion about that. I am not sure that this result will be useful (because it won't help getting one's hands on the value of the product). In any case, it wouldn't hurt to have it.

**Comment by wwylele** [comment]
Thanks for the suggestion! I have extracted the theorem and added the MvPowerSeries version

**Review by AntoineChambert-Loir — APPROVED** [review]
LGTM

File: Mathlib/RingTheory/MvPowerSeries/PiTopology.lean [hunk 2]
```diff
@@ -293,6 +294,48 @@ theorem summable_of_tendsto_order_atTop_nhds_top
...
+
+/-- If the order of a family of `MvPowerSeries` tends to infinity, the collection of all
+possible products over `Finset` is summable. -/
+theorem summable_prod_of_tendsto_order_atTop_nhds_top
+    (h : Tendsto (fun i ↦ (f i).order) atTop (𝓝 ⊤)) : Summable (∏ i ∈ ·, f i) :=
+  summable_prod_of_tendsto_weightedOrder_atTop_nhds_top h
+
+/-- A family of `MvPowerSeries` in the form `1 + f i` is multipliable if the weighted order of `f i`
+tends to infinity. -/
+theorem multipliable_one_add_oft_tendsto_weightedOrder_atTop_nhds_top {w : σ → ℕ}
```
Comment (b-mehta) [inline Mathlib/RingTheory/MvPowerSeries/PiTopology.lean]:
```suggestion
theorem multipliable_one_add_of_tendsto_weightedOrder_atTop_nhds_top {w : σ → ℕ}
```

File: Mathlib/RingTheory/MvPowerSeries/PiTopology.lean [hunk 3]
```diff
@@ -293,6 +294,48 @@ theorem summable_of_tendsto_order_atTop_nhds_top
...
+    (h : Tendsto (fun i ↦ weightedOrder w (f i)) atTop (nhds ⊤)) : Multipliable (1 + f ·) :=
+  multipliable_one_add_of_summable_prod <| summable_prod_of_tendsto_weightedOrder_atTop_nhds_top h
+
+/-- A family of `MvPowerSeries` in the form `1 + f i` is multipliable if the order of `f i`
+tends to infinity. -/
+theorem multipliable_one_add_oft_tendsto_order_atTop_nhds_top
```
Comment (b-mehta) [inline Mathlib/RingTheory/MvPowerSeries/PiTopology.lean]:
```suggestion
theorem multipliable_one_add_of_tendsto_order_atTop_nhds_top
```

File: Mathlib/RingTheory/PowerSeries/PiTopology.lean [hunk 4]
```diff
@@ -157,6 +158,35 @@ theorem summable_of_tendsto_order_atTop_nhds_top [LinearOrder ι] [LocallyFinite
 
 end Sum
 
+section Prod
+variable [CommSemiring R] {ι : Type*} [LinearOrder ι] [LocallyFiniteOrderBot ι] {f : ι → R⟦X⟧}
+
+/-- If the order of a family of `PowerSeries` tends to infinity, the collection of all
+possible products over `Finset` is summable. -/
+theorem summable_prod_of_tendsto_order_atTop_nhds_top
```
Comment (b-mehta) [inline Mathlib/RingTheory/PowerSeries/PiTopology.lean:166]: Can we use the MvPowerSeries version to streamline this proof?

**Review by b-mehta — COMMENTED** [review]
bors d+

**Comment by b-mehta** [comment]
Thanks for the PR, and thanks for the helpful review Antoine!

File: Mathlib/RingTheory/PowerSeries/PiTopology.lean (hunk 4 above)
Comment (wwylele) [reply Mathlib/RingTheory/PowerSeries/PiTopology.lean:166]: At the moment, probably not, because PowerSeries.order isn't defined in terms of MvPowerSereis.order
